US04314061
3,6-bis(2-diethylaminoethoxy)acridine-chromium chloride complex
A suspension of 3,6-bis(2-diethylaminoethoxy)acridine and one equivalent of chromium chloride in ethanol is refluxed for 2 hours. The solvent is removed giving the desired 1:1 complex.

reactant | 3,6-bis(2-diethylaminoethoxy)acridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC | C25H35N3O2
reactant | chromium chloride | one equivalent | [Cl-].[Cr+3].[Cl-].[Cl-]
solvent | ethanol | C(C)O | C2H6O
product | 3,6-bis(2-diethylaminoethoxy)acridine chromium chloride | C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC.[Cl-].[Cr+3].[Cl-].[Cl-] | InChI=1S/C25H35N3O2.3ClH.Cr/c1-5-27(6-2)13-15-29-22-11-9-20-17-21-10-12-23(19-25(21)26-24(20)18-22)30-16-14-28(7-3)8-4;;;;/h9-12,17-19H,5-8,13-16H2,1-4H3;3*1H;/q;;;;+3/p-3
